US09079880B2
To a stifling solution of 3-[(R)-1-(3-cyano-phenylcarbamoyl)-pyrrolidin-2-yl]-benzoic acid methyl ester (1.086 g, 2.487 mmol) in MeOH (30 mL) at room temperature add 5 M NaOH aqueous solution (10 mL, 49.74 mmol) and stir the reaction at ambient temp for 18 h. Cool the reaction to 0° C. in ice and quench with slow addition of conc. HCl (5 mL) over 15 min, maintaining internal temp at 5° C., to a final pH of 1. Extract the cold suspension with EtOAc (2×100 mL), and wash the organics with water (2×100 mL). Dry the organic layer (Na2SO4), concentrate to a residue in vacuo. Purify this by silica gel chromatography eluting with a gradient of 50% EtOAc/hexane to 100% EtOAc. Pool and concentrate fractions containing product, and triturate the residue in Et2O and hexane to afford 3-[(R)-1-(3-cyano-phenylcarbamoyl)-pyrrolidin-2-yl]-benzoic acid as a solid (347 mg).

reactant | 3-[(R)-1-(3-cyano-phenylcarbamoyl)-pyrrolidin-2-yl]-benzoic acid methyl ester | 2.487 mmol, 1.086 g | COC(C1=CC(=CC=C1)[C@@H]1N(CCC1)C(NC1=CC(=CC=C1)C#N)=O)=O | C20H19N3O3
reactant | NaOH | 49.74 mmol, 5 M, 10 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 3-[(R)-1-(3-cyano-phenylcarbamoyl)-pyrrolidin-2-yl]-benzoic acid | 347 mg | C(#N)C=1C=C(C=CC1)NC(=O)N1[C@H](CCC1)C=1C=C(C(=O)O)C=CC1 | C19H17N3O3
